US07604683B2
50 ml of glycerol was introduced into a 100 ml-four-neck flask, and then stirred and heated at 130 to 140° C. for 2 hours while bubbling with nitrogen gas. The glycerol was left to cool to 100° C., and then 1.03 g (5.02 mmol) of 1-phenylisoquinoline and 0.50 g (1.02 mmol) of iridium (III) acetylacetonate were added. The reaction mixture was stirred and heated for 7 hours at around 210° C. under a nitrogen gas flow. After being left to cool to room temperature, the reaction product was added to 300 ml of 1N-hydrochloric acid, and the resulting precipitate was filtered and then washed with water. The precipitate was purified using silica gel column chromatography with chloroform used as an eluent, to yield 0.22 g of a red powder of iridium (III) tris(1-phenylisoquinoline) (26.8% yield). FIG. 1 illustrates the crystal structure of the iridium (III) tris(1-phenylisoquinoline) as obtained from single crystal structure analysis. As can be seen from FIG. 1, this crystal had pores with a diameter of about 0.8 nm.

reactant | 1-phenylisoquinoline | 5.02 mmol, 1.03 g | C1(=CC=CC=C1)C1=NC=CC2=CC=CC=C12 | C15H11N
reactant | iridium (III) acetylacetonate | 1.02 mmol, 0.50 g | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Ir]
reactant | hydrochloric acid | Cl | ClH
solvent | glycerol | 50 ml | OCC(O)CO | C3H8O3
product | iridium (III) tris(1-phenylisoquinoline) | 26.8% yield | C1(=CC=CC=C1)C1=NC=CC2=CC=CC=C12.C1(=CC=CC=C1)C1=NC=CC2=CC=CC=C12.C1(=CC=CC=C1)C1=NC=CC2=CC=CC=C12.[Ir+3] | InChI=1S/3C15H11N.Ir/c3*1-2-7-13(8-3-1)15-14-9-5-4-6-12(14)10-11-16-15;/h3*1-11H;/q;;;+3
